US07598267B2
1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile
To a suspension of 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.3055 g, 1.04 mmol) in 1,2-dichloroethane (17 mL) was added AlCl3 (0.6675 g, 5.04 mmol). The reaction was allowed to stir for 10 min and then TMSCN (0.68 mL, 5.10 mmol) was added. The reaction was sealed and heated to 85° C. for overnight. The reaction mixture was poured into a separatory funnel containing K2CO3 (aq. sat.) (100 mL) and EtOAc (100 mL). The aqueous phase was separated and further extracted with EtOAc (3×100 mL) was performed. The combined organics were dried over MgSO4, filtered and concentrated under vacuum. The residue was dissolved in DMSO and purified by Gilson preparatory HPLC (w/0.1% TFA). The combined fractions were concentrated down under vacuum to remove CH3CN. The resulting water layer was basified to pH=12 with 6N NaOH, and then extracted with EtOAc. The combined organic fractions were dried over MgSO4, filtered, and concentrated under vacuum to give the title compound (0.185 g, 59.7%). EI-MS ml/z 303 (M+H+) Rt (1.76 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 1.04 mmol, 0.3055 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | AlCl3 | 5.04 mmol, 0.6675 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | TMSCN | 5.10 mmol, 0.68 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | K2CO3 | 100 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,2-dichloroethane | 17 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile | 0.185 g, 59.7% | N12CCC(CC1)(CC2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C21H22N2
